US07244730B2
(Step 1) 2-Bromo-1-[3-(tert-butyl)-5-ethoxy-4-methoxyphenyl]-1-ethanone
Cesium carbonate (662 mg, 2.03 mmol) and methyl iodide (0.14 ml, 2.20 mmol) were added to a solution of 1-[3-(tert-butyl)-5-ethoxy-4-hydroxyphenyl]-1-ethanone (400 mg, 1.69 mmol) in acetonitrile and the mixture was stirred at room temperature for 10 hours. Water was added to the reaction mixture, extraction was performed with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Tetra-n-butylammonium tribromide (841 mg, 1.74 mmol) was added to a solution of the residue in methylene chloride-methanol (8 ml:2 ml) and the mixture was stirred at room temperature for 8 hours. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (491 mg) as a colorless oil.

reactant | Cesium carbonate | 2.03 mmol, 662 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 2.20 mmol, 0.14 ml | CI | CH3I
reactant | 1-[3-(tert-butyl)-5-ethoxy-4-hydroxyphenyl]-1-ethanone | 1.69 mmol, 400 mg | C(C)(C)(C)C=1C=C(C=C(C1O)OCC)C(C)=O | C14H20O3
reactant | Tetra-n-butylammonium tribromide | 1.74 mmol, 841 mg | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methylene chloride methanol | 8 ml | C(Cl)Cl.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-Bromo-1-[3-(tert-butyl)-5-ethoxy-4-methoxyphenyl]-1-ethanone | 491 mg | BrCC(=O)C1=CC(=C(C(=C1)OCC)OC)C(C)(C)C | C15H21BrO3
